US09382356B2
(ii) Synthesis of 6,6-di(4-chlorobenzyl)fulvene
Under a nitrogen atmosphere, a 100-mL three-necked flask was charged with 0.66 g (9.22 mmol) of lithium cyclopentadiene and 10 mL of dehydrated THF, and the mixture was stirred. This solution was cooled (to −78° C.) in a dry ice/methanol bath, and 2.50 g (8.96 mmol) of bis(4-chlorobenzyl)ketone dissolved in 15 mL of dehydrated THF was added dropwise. Subsequently, the mixture was stirred for 17 hours while gradually warming to room temperature. Then, 1 N hydrochloric acid was added to the resulting brown-black solution to terminate the reaction. Thereafter, hexane was added to perform liquid-liquid phase separation, and the aqueous layer was subjected to extraction with hexane twice. The resultant was combined with the organic layer obtained previously. The resultant liquid was then washed two times with a saturated aqueous solution of sodium hydrogen carbonate, two times with water, and once with saturated brine, and dried over magnesium sulfate. The solvent was distilled off, and the residue was purified by column chromatography to obtain a target product as a yellow powder (yield 0.65 g (22%)). The target product was identified by 1H-NMR.

reactant | lithium cyclopentadiene | 9.22 mmol, 0.66 g | C1=CC=CC1.[Li]
reactant | bis(4-chlorobenzyl)ketone | 8.96 mmol, 2.50 g | ClC1=CC=C(CC(=O)CC2=CC=C(C=C2)Cl)C=C1 | C15H12Cl2O
reactant | hydrochloric acid | 1 N | Cl | ClH
reactant | hexane | CCCCCC | C6H14
solvent | THF | 15 mL | C1CCOC1 | C4H8O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 6,6-di(4-chlorobenzyl)fulvene | yield 0.65 g, 22% | ClC1=CC=C(CC(=C2C=CC=C2)CC2=CC=C(C=C2)Cl)C=C1 | C20H16Cl2
